US07521444B2
To a solution of 13-cyclohexyl-10-(((dimethylamino)sulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid (178 mg, 0.33 mmol) and (4aS,7aS)-6-benzyloctahydro-1H-pyrrolo[3,4-b]pyridine dihydrochloride (114 mg, 0.40 mmol) in DMF (3 mL) and TEA (0.2 mL) was added HATU (162 mg, 0.43 mmol). The reaction was stirred at rt for 2 h, then aq HCl (1.0N, 1.3 mL) and H2O (5 mL) were added under stirring. The resulting precipitate was collected via filtration, washed with H2O and dried to yield crude intermediate as an orange solid. This crude intermediate (260 mg) was dissolved into MeOH/EtOAc/95% EtOH and to this solution 10% Pd—C (catalytic) was added. The mixture was vigorously shaken under H2 (50 psi) at rt for 16 h, then filtered through Celite. The filtrate was concentrated and the residue was purified by prep HPLC (H2O/MeOH with 0.1% TFA buffer) to yield 13-cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-((4aS,7aS)-octahydro-1H-pyrrolo[3,4-b]pyridin-1-ylcarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide (129 mg, 0.20 mmol, 61%) as a yellow solid. 1H NMR (300 MHz, MeOD) δ ppm 8.11 (s, 1H), 7.93 (d, J=8.8 Hz, 1H), 7.59 (dd, J=8.4, 1.5 Hz, 1H), 7.58 (d, J=8.8 Hz, 1H), 7.18 (dd, J=8.8, 2.6 Hz, 1H), 7.03-7.11 (m, 1H), 6.91-7.00 (m, 1H), 4.99-5.22 (m, 1H), 4.24-4.54 (m, 1H), 3.93 (s, 3H), 3.03 (s, 6H), 2.75-4.02 (m, 8H), 1.12-2.47 (m, 16H). LCMS: m/e 646 (M+H)+, Column C, Gradient time: 2 min, ret time 1.93 min.

reactant | 13-cyclohexyl-10-(((dimethylamino)sulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | 0.33 mmol, 178 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)O)C=C(C=C1)OC)C(NS(=O)(=O)N(C)C)=O | C28H31N3O6S
reactant | (4aS,7aS)-6-benzyloctahydro-1H-pyrrolo[3,4-b]pyridine dihydrochloride | 0.40 mmol, 114 mg | Cl.Cl.C(C1=CC=CC=C1)N1C[C@H]2NCCC[C@H]2C1
reactant | HATU | 0.43 mmol, 162 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 1.0N, 1.3 mL | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd—C | [Pd] | Pd
solvent | MeOH EtOAc | CO.CCOC(=O)C
solvent | H2O | 5 mL | O | H2O
product | 13-cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-((4aS,7aS)-octahydro-1H-pyrrolo[3,4-b]pyridin-1-ylcarbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 0.20 mmol, 129 mg, 61% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)N2[C@H]3[C@@H](CCC2)CNC3)C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C35H43N5O5S
